US04109000
2.0 Grams of 5-benzylpicolinic acid were suspended in 25 ml. of ethanol. The resulting suspension was saturated with hydrogen chloride gas under ice-cooling. After reflux for three hours, the reaction solution was concentrated under reduced pressure. Ether was added thereto to form crystals. The crystals were then recrystallized from a solvent comprising a mixture of acetone/ether to obtain 1.7 g of ethyl 5-benzylpicolinate of a melting point of 109°~111° C.

reactant | 5-benzylpicolinic acid | C(C1=CC=CC=C1)C=1C=CC(=NC1)C(=O)O | C13H11NO2
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | ethyl 5-benzylpicolinate | 1.7 g | C(C1=CC=CC=C1)C=1C=CC(=NC1)C(=O)OCC | C15H15NO2
